Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting
 
Major Surgical or Invasive Procedure:
cardiac catheter ___
 
History of Present Illness:
___ year old female with CAD s/p CABG, diastolic CHF, 
hypertension presenting with nausea, vomiting and new right 
bundle branch block.  Patient presents with nausea and 
constipation for the last day or two, although she does report a 
bowel movement yesterday.  She denies chest pain or dyspnea.  
She also denies fevers, chills, coughs, or abdominal pain.  She 
has no reported episodes of vomiting at home.  There have been 
no fevers or chills.

In the ED, initial vitals were 98 103 153/92 20 100% RA.  Labs 
showed bicarbonate of 20, normal anion gap, creatinine 1.2.  
Troponin was <0.01.  UA showed no WBC, no bacteria, 30 protein, 
150 glucose.  ECG showed new right bundle branch block.  CXR and 
KUB showed no free air, no air fluid levels, calcifications 
along the aorta and iliac vessels, and evidence of COPD but no 
acute cardiopulmonary disease.  CT A/P preliminarily showed no 
acute findings, and diverticulosis without evidence of 
diverticulitis.  The patient had a few episodes of vomiting up 
PO liquids, no frank vomitus while in the ED.  Urine culture was 
sent.  Patient received aspirin 325 mg, lorazepam 2 mg x 1, and 
ondansetron 2 mg x 2.  Vitals on transfer were 98.1 109 173/78 
18 96% RA.  

Currently, patient reports no nausea or abdominal pain.
 
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias. Ten 
point review of systems is otherwise negative.

 
Past Medical History:
1. Stage 3 colorectal cancer s/p colectomy ___ 
2. CAD s/p cabg x4 SVG to distal LAD, circ, PDA and LIMA to diag 
1
3. HTN 
4. Pernicious Anemia 
5. CKD 
6. Diastolic CHF 
7. Carpal tunnel syndrome 
8. Carotid bruits 
9. Hearing loss   

 
Social History:
___
Family History:
Daughter with MI, no liver disease or cardiac disease otherwise

 
Physical Exam:
ADMISSION EXAM:
Vitals: T: 98.3 BP: 169/78 P: 118 R: 24 O2: 98% on RA  
GEN: Alert. Fatigued appearing but comfortable, no acute signs 
of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP 
clear, dry MM.  
Neck: Supple, no JVD 
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: No active rash.  
Neuro: non-focal.  
PSYCH: Appropriate and calm. 

DISCHARGE EXAM:
98.7  ___  59  18  99% RA
GENERAL: WDWN woman in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. Conjunctiva were pink 
NECK: Supple with JVP of 10cm at 30 degrees.  
CARDIAC: RR, S1, S2, systolic murmur at RUSB radiating to neck. 
No S3 or S4.  
LUNGS: Resp were unlabored, with bibasilar crackles. no wheezes 
or rhonchi.  
ABDOMEN: Soft, NTND. No tenderness.  
EXTREMITIES: No c/c/e.  
 
Pertinent Results:
ADMISSION LABS
--------------
___ 09:16PM BLOOD WBC-9.0# RBC-4.75# Hgb-13.9# Hct-41.6# 
MCV-88 MCH-29.2 MCHC-33.3 RDW-13.3 Plt ___
___ 09:16PM BLOOD Neuts-83.4* Lymphs-12.1* Monos-3.7 
Eos-0.2 Baso-0.6
___ 09:16PM BLOOD Glucose-214* UreaN-23* Creat-1.2* Na-143 
K-3.7 Cl-103 HCO3-20* AnGap-24*
___ 09:16PM BLOOD ALT-13 AST-33 AlkPhos-102 TotBili-0.5
___ 09:16PM BLOOD Albumin-4.5 Calcium-10.1 Phos-3.0 Mg-1.9

Cardiac Labs 
___ 09:16PM BLOOD cTropnT-<0.01
___ 04:10PM BLOOD cTropnT-0.51*
___ 08:10PM BLOOD CK-MB-35* MB Indx-7.5* cTropnT-0.62*
___ 06:08AM BLOOD CK-MB-33* MB Indx-7.1* cTropnT-0.85*
___ 12:50PM BLOOD CK-MB-28* MB Indx-6.3* cTropnT-0.76*
___ 10:55AM BLOOD CK-MB-6 cTropnT-2.29*

Discharge labs 
___ 07:50AM BLOOD WBC-4.5 RBC-4.38 Hgb-12.8 Hct-38.3 MCV-88 
MCH-29.2 MCHC-33.4 RDW-13.1 Plt ___
___ 07:50AM BLOOD WBC-4.5 RBC-4.38 Hgb-12.8 Hct-38.3 MCV-88 
MCH-29.2 MCHC-33.4 RDW-13.1 Plt ___
___ 07:50AM BLOOD ___ PTT-28.2 ___
___ 07:50AM BLOOD Glucose-101* UreaN-16 Creat-1.2* Na-141 
K-3.8 Cl-108 HCO3-27 AnGap-10
___ 10:55AM BLOOD CK(CPK)-161
___ 07:50AM BLOOD Calcium-9.2 Phos-3.1 Mg-1.9

ECHO 
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. There is mild 
regional left ventricular systolic dysfunction with focal 
hypokinesis of the basal to mid inferior and inferolateral 
walls. Overall left ventricular systolic function is mildly 
depressed (LVEF= 40-45 %). The estimated cardiac index is normal 
(>=2.5L/min/m2). Tissue Doppler imaging suggests an increased 
left ventricular filling pressure (PCWP>18mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The number of aortic valve leaflets cannot be 
determined. The aortic valve leaflets are moderately thickened. 
There is mild aortic valve stenosis (valve area 1.2-1.9cm2). 
There is no aortic regurgitation. The mitral valve leaflets are 
mildly thickened. Mild (1+) mitral regurgitation is seen. The 
left ventricular inflow pattern suggests impaired relaxation. 
The pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. 

IMPRESSION: Suboptimal image quality. Regional left ventricular 
systolic dysfunction c/w possible CAD. Normal right ventricular 
cavity size and systolic function. Mild mitral regurgitation. 
Mild aortic stenosis. 

ECGs with new bifascicular block (LAFB/RBBB) and some slight 
inferolateral ST depressions

Cardiac Cath:
Findings
ESTIMATED blood loss: minimal
Hemodynamics (see above):
Coronary angiography:  right dominant
LMCA:  90% distal
LAD:  70% ___, 95% mid. 70% ostial in D1
LCX:  100% ostial. 60% ostial in ramus branch
RCA:  Diffuse 90% disease
SVG-:  SVG to LAD is widely patent. SVG to PDA has a 60% 
stenosis
in the mid segment, and 60% stenosis in PDA just distal to the
anastamosis. SVG to OM is stump occluded.
LIMA-D1:  60% ostial stenosis in the bypass graft.
 
Brief Hospital Course:
___ year old female with CAD s/p CABG, diastolic CHF, 
hypertension presented with nausea, vomiting, new right bundle 
branch block, and elevated cardiac markers consistent with 
NSTEMI.

# NSTEMI: Patient presented initially with abdominal discomfort 
(described as the sensation of needing to belch) and nausea with 
negative CT abdomen and KUB.  Trops and CK-MB were elevated and 
ECG showed new rate dependent RBBB.  Abdominal pain is likely 
her anginal equivalent.  She was started on heparin gtt for 
48hrs, plavix loaded, given full dose of aspirin and 
atorvastatin 80mg. Her beta blocker was uptitrated to maintain 
rates in ___.  A TTE was performed to look for new wall 
motion abnormalities and it showed a reduced EF of 40-45% (new) 
and regional left ventricular systolic dysfunction c/w possible 
CAD. Pt's pain resolved and CK-MD down trended to within normal 
limits.  Coronary intervention was discussed with pt and decided 
to undergo cardiac cath which showed left main and 3 vessel 
native CAD. One of her 4 bypass grafts (SVG to OM) is occluded. 
She was managed medically and was discharged on aspirin, plavix, 
metoprolol, lisinopril, and atorvastatin 80mg.  

# Right bundle branch block: rate dependent. Discharged on beta 
blocker.
 
# Hypertension: Continued amlodipine, clonidine and metoprolol. 
HCTZ was discontinued. She had episodes of hypertension to 170s 
when she was due for clonidine doses. One such episode was 
associated with recurrence of her abdominal discomfort that 
resolved with her dose of clonidine and resolution of 
hypertension. ECG at that time did not show ST changes. ACEi was 
started for more consistent blood pressure control in the 
setting of systolic dysfunction. 

# Congestive Heart Failure: now with decreased EF in setting of 
ischemic insult. She was medically managed and discharged on 
ASA, plavix, metoprolol, atorvastatin, and an ACEi. 

# Chronic kidney disease:  Baseline creatinine is around 1.3. 
She was pre-hydrated with IVF before and after cardiac cath and 
her creatinine remained around baseline. 

Transitional issues: 
- Cardiology follow up 
- If ongoing chest/abdominal pain, consider evaluation with 
stress test
- Code status: Full code, confirmed  
- Contact: son ___, ___  

 
___ on Admission:
1. Amlodipine 10 mg PO DAILY 
2. CloniDINE 0.3 mg PO BID 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Metoprolol Tartrate 75 mg PO BID 
5. Aspirin 162 mg PO DAILY 
6. Cyanocobalamin 1000 mcg IM/SC EVERY MONTH 
7. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet,delayed release (___) by mouth 
once a day Disp #*30 Tablet Refills:*0
3. CloniDINE 0.3 mg PO BID 
4. Ferrous Sulfate 325 mg PO DAILY 
5. Metoprolol Tartrate 50 mg PO BID 
RX *metoprolol tartrate 50 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
6. Cyanocobalamin 1000 mcg IM/SC EVERY MONTH 
7. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
8. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule,delayed ___ by 
mouth once a day Disp #*30 Capsule Refills:*0
9. Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
10. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
non S-T elevation myocardial infarction
AIVR
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

___ were admitted to the hospital for a heart attack (NSTEMI).  
We treated ___ with medications to thin your blood and to 
prevent further damage to the heart.  We discussed options for 
possible interventional treatment and we decided to do a cardiac 
catheterization.  The catheterization did not show any areas 
that needed to be stented.  

We have made several medication changes to protect your heart 
from further damage.  

We have arranged for follow for ___ with your PCP and have 
arranged for follow up with Dr. ___ new cardiologist. 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___